US08980911B2
A solution of (4-amino-1H-pyrrolo[3,2-c]pyridin-1-yl)(2,6-dichlorophenyl)methanone (50 mg, 0.16 mmol) and triethylamine (0.013 mL, 0.18 mmol) in anhydrous tetrahydrofuran was cooled to 0° C. and treated drop wise with methyl chloroformate (0.05 mL, 0.33 mL) and stirred at room temperature for 2 hours. The reaction mixture was poured onto cold water and the precipitated solid was filtered off, washed with hexane and dried to afford methyl [1-(2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]carbamate (35 mg, 60%).

reactant | (4-amino-1H-pyrrolo[3,2-c]pyridin-1-yl)(2,6-dichlorophenyl)methanone | 0.16 mmol, 50 mg | NC1=NC=CC2=C1C=CN2C(=O)C2=C(C=CC=C2Cl)Cl | C14H9Cl2N3O
reactant | triethylamine | 0.18 mmol, 0.013 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.05 mL | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl [1-(2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]carbamate | 35 mg, 60% | ClC1=C(C(=O)N2C=CC=3C(=NC=CC32)NC(OC)=O)C(=CC=C1)Cl | C16H11Cl2N3O3
